US04772721
(3) (+)-(S)-5,6,7,8-Tetrahydro-7-(methoxycarbonyl)-5-oxoimidazo[1,5-c]pyrimidine
3.38 g (20 mmol) of L-histidine methyl ester and 3.16 g (40 mmol) of pyridine (distilled over ninhydrin) are dissolved in 100 ml of chloroform and cooled with methanol/dry ice to -30° to -40° C. At this temperature, a weak stream of HCl-free phosgene is introduced for 15 minutes and the mixture is stirred for 15 minutes in the cold state. Then the batch is poured into 400 ml of cold ether/hexane (2:1). A fine, white, readily deliquescent precipitate is obtained which is suctioned off and washed with ether. The precipitate is taken up in 200 ml of 1N sodium bicarbonate solution and extracted six times with respectively 50 ml of chloroform. The CHCl3 phase is dried over sodium sulfate and concentrated under vacuum. Remaining traces of pyridine are removed under a high vacuum. The compound is crystallized from methanol in beautiful, colorless crystals.

reactant | L-histidine methyl ester | 20 mmol, 3.38 g | COC([C@@H](N)CC1=CNC=N1)=O | C7H11N3O2
reactant | pyridine | 40 mmol, 3.16 g | N1=CC=CC=C1 | C5H5N
reactant | methanol dry ice | CO.C(=O)=O
reactant | HCl | Cl | ClH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether hexane | 400 ml | CCOCC.CCCCCC
product | (+)-(S)-5,6,7,8-Tetrahydro-7-(methoxycarbonyl)-5-oxoimidazo[1,5-c]pyrimidine | COC(=O)[C@@H]1CC=2N(C(N1)=O)C=NC2 | C8H9N3O3
